US08835420B2
Preparation x40: tert-Butyl ((1S)-1-(6-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate
A solution of (S)-tert-butyl (1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate (100 mg, 0.282 mmol), 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole (126 mg, 0.565 mmol) and PdCl2(dppf)-CH2Cl2 adduct (11 mg, 0.014 mmol) in dioxane (1.0 mL) and 3 M aqueous potassium carbonate (1.01 mL, 3.02 mmol) were heated at 120° C. for 1 hour in a microwave reactor. The mixture was diluted with EtOAc (50 mL), washed with saturated aqueous ammonium chloride (50 mL) and brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified on a silica gel column (24 g) eluting with a 0-50% EtOAc gradient in hexanes to give the title compound as a clear, colorless oil (107 mg, 100%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.27-1.35 (m, 9 H), 2.05 (d, J=12.6 Hz, 3 H), 2.20-2.28 (m, 3 H), 3.77-3.85 (m, 3 H), 4.52-4.68 (m, 1H), 6.59 (d, J=3.0 Hz, 1 H), 6.81-6.90 (m, 1 H), 7.68 (d, J=3.3 Hz, 1 H), 7.71 (d, J=8.8 Hz, 1 H); ESI-MS m/z [M+H]+ calc'd for C20H26N4O3, 371; found 371.

reactant | (S)-tert-butyl (1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate | 0.282 mmol, 100 mg | BrC=1C=C2C(=NC1[C@H](C)NC(OC(C)(C)C)=O)C=CN2C | C15H20BrN3O2
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoxazole | 0.565 mmol, 126 mg | CC1=NOC(=C1B1OC(C(O1)(C)C)(C)C)C | C11H18BNO3
reactant | potassium carbonate | 3.02 mmol, 3 M, 1.01 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.014 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | tert-Butyl ((1S)-1-(6-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)carbamate | CC1=NOC(=C1C=1C=C2C(=NC1[C@H](C)NC(OC(C)(C)C)=O)C=CN2C)C | C20H26N4O3
